US05536737
b) N-(Benzyloxycarbonyl)-L-thioprolyl-L-proline
1N Sodium hydroxide (45 ml) was dropwise added to a methanol solution (120 ml) of N-(benzyloxycarbonyl)-L-thioprolyl-L-proline methyl ester (11.84 g) under ice-cooling, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated and the residue was dissolved in water. The aqueous solution was acidified with concentrated hydrochloric acid under ice-cooling and extracted with chloroform. The extract was washed with water and concentrated to give the title compound (6.47 g).

reactant | Sodium hydroxide | 1N, 45 ml | [OH-].[Na+]
reactant | N-(benzyloxycarbonyl)-L-thioprolyl-L-proline methyl ester | 11.84 g | COC([C@H]1N(CCC1)C([C@H]1N(CSC1)C(=O)OCC1=CC=CC=C1)=O)=O | C18H22N2O5S
solvent | methanol | 120 ml | CO | CH4O
product | N-(Benzyloxycarbonyl)-L-thioprolyl-L-proline | 6.47 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CSC1 | C17H20N2O5S
